US04654073
6.5 parts by weight of 2-butyryl-5-(2-isopropyl-1,3-dioxepan-5-yl)-cyclohexane-1,3-dione, 2.1 parts by weight of ethoxyammonium chloride and 1.8 parts by weight of sodium bicarbonate in 80 parts by volume of methanol are stirred for 16 hours at room temperature. The solvent is distilled off under reduced pressure, the residue is stirred with 50 parts by volume of water and 50 parts by volume of dichloromethane, the organic phase is separated off, the aqueous phase is extracted once with 50 parts by volume of dichloromethane, the combined organic phases are dried over sodium sulfate, and the solvent is distilled off under reduced pressure. 6.2 parts by weight of 2-(1-ethoxyamino-n-butylidene)-5-(2-isopropyl1,3-dioxepan-5-yl)-cyclohexane-1,3-dione are obtained as an oil (active ingredient No. 1).

reactant | 2-butyryl-5-(2-isopropyl-1,3-dioxepan-5-yl)-cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(CC1=O)C1COC(OCC1)C(C)C)=O | C18H28O5
reactant | ethoxyammonium chloride | [Cl-].C(C)O[NH3+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
product | 2-(1-ethoxyamino-n-butylidene)-5-(2-isopropyl1,3-dioxepan-5-yl)-cyclohexane-1,3-dione | C(C)ONC(CCC)=C1C(CC(CC1=O)C1COC(OCC1)C(C)C)=O | C20H33NO5
